US08232390B2
Step 1: [3-(acetylamino)-2-aminophenyl]boronic acid
10% Pd on carbon (cat.) was added as a slurry in EtOH under N2 to [3-(acetylamino)-2-nitrophenyl]boronic acid in EtOH (0.05 M). The atmosphere in the reaction vessel was flushed with hydrogen (1 atm) and the reaction stirred vigorously at RT for 20 min. The hydrogen atmosphere was then replaced with N2 before filtering through a plug of CELITE—washing well with EtOH. The EtOH solution was concentrated in vacuo to afford the crude title compound as a brown solid, which was used immediately in the subsequent cross-coupling step. MS (ES+) m/z 195 (M+H)+.

reactant | [3-(acetylamino)-2-nitrophenyl]boronic acid | C(C)(=O)NC=1C(=C(C=CC1)B(O)O)[N+](=O)[O-] | C8H9BN2O5
solvent | EtOH | CCO | C2H6O
solvent | EtOH | 0.05 M | CCO | C2H6O
catalyst | Pd on carbon | [Pd] | Pd
product | [3-(acetylamino)-2-aminophenyl]boronic acid | C(C)(=O)NC=1C(=C(C=CC1)B(O)O)N | C8H11BN2O3
